US08563565B2
(2) Synthesis of (2-methoxy-6-methylpyridin-4-yl)methanol
Sodium methoxide (11.3 mL, 28% solution in methanol) was added to a solution of (2-chloro-6-methylpyridin-4-yl)methanol (1.75 g) in DMF (18 mL), and the mixture was stirred at 80° C. for 12 hours. Subsequently, the reaction mixture was stirred at 120° C. for seven hours. The reaction mixture was concentrated under reduced pressure, and a saturated aqueous ammonium chloride solution was added to the residue, followed by extraction with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 10% to 70%) to give the title compound (1.1 g).

reactant | Sodium methoxide | 11.3 mL | C[O-].[Na+]
reactant | (2-chloro-6-methylpyridin-4-yl)methanol | 1.75 g | ClC1=NC(=CC(=C1)CO)C | C7H8ClNO
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | (2-methoxy-6-methylpyridin-4-yl)methanol | 1.1 g | COC1=NC(=CC(=C1)CO)C | C8H11NO2
